US06586421B2
tert-Butyl 6-(2-anilino-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.059 g, 0.14 mmol) was dissolved in THF (5 mL) and LAH (0.0080 g, 0.21 mmol, 1.5 equiv.) was added. The reaction mixture was refluxed for 6 h under N2. The reaction mixture was quenched with water and extracted with EtOAc. The extracts were treated with TFA, and the resulting mixture was concentrated. THF and excess LAH were added and the reaction mixture was refluxed for 2 h. The reaction mixture was quenched by the addition of acetone, methanol, and water. The resulting mixture was extracted with EtOAc (4×) and the reaction mixture was concentrated. The crude product was purified by PTLC (1 mm×20 cm×20 cm plate, developed with 10% MeOH:CH2Cl2, eluted with MeOH) to yield N-[2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)ethyl]aniline (0.0093 g) in 22% yield. 1H NMR (400 MHz, CDCl3) δ 2.87-2.89, 2.93-2.96, 3.03, 3.09, 3.49-3.53, 4.31, 6.57, 6.74, 7.07-7.28, 7.50.

reactant | tert-Butyl 6-(2-anilino-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.14 mmol, 0.059 g | N(C1=CC=CC=C1)C(CN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C)=O | C25H29N3O3
reactant | LAH | 0.21 mmol, 0.0080 g, 1.5 equiv. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-[2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)ethyl]aniline | 0.0093 g, 22% yield | C1CNCCC=2N(C=3C=CC=CC3C21)CCNC2=CC=CC=C2 | C20H23N3
